US04988698
A mixture of 6-amino-8-methyl-3,4-dihydro-2(1H)-quinolinone (19.4 g), bis(2-bromoethyl)amine hydrobromide (41 g) and methanol (140 ml) was stirred for 13 hours at 64° C. After cooling, sodium carbonate (5.83 g) was added thereto and the mixture was stirred for 9 hours at 70° C. After cooling, the resulting precipitate was collected by filtration and the residue was washed with methanol to give 3,4-dihydro-8-methyl-6-(1-piperazinyl)-2(1H)-quinolinone hydrobromide (21.6 g).

reactant | 6-amino-8-methyl-3,4-dihydro-2(1H)-quinolinone | 19.4 g | NC=1C=C2CCC(NC2=C(C1)C)=O | C10H12N2O
reactant | bis(2-bromoethyl)amine hydrobromide | 41 g | Br.BrCCNCCBr
reactant | sodium carbonate | 5.83 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 140 ml | CO | CH4O
product | 3,4-dihydro-8-methyl-6-(1-piperazinyl)-2(1H)-quinolinone hydrobromide | 21.6 g | Br.CC=1C=C(C=C2CCC(NC12)=O)N1CCNCC1 | InChI=1S/C14H19N3O.BrH/c1-10-8-12(17-6-4-15-5-7-17)9-11-2-3-13(18)16-14(10)11;/h8-9,15H,2-7H2,1H3,(H,16,18);1H
